US07435815B2
[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid
prepared by reaction of 4-tert-butyl-N-quinolin-6-yl-benzenesulfonamide with tert-butyl bromoacetate

reactant | 4-tert-butyl-N-quinolin-6-yl-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CC=NC2=CC1 | C19H20N2O2S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=C2C=CC=NC2=CC1)CC(=O)O | C21H22N2O4S
